US05403930
Ethyl 2-hydroxy4-[[3-[(3-methyl-2-pyridinylamino)sulfonyl]-phenyl]ethynyl]benzoate
3-Iodo-N-(3-methyl-2-pyridinyl)benzenesulfonamide (18.7 g, 50 mmol), ethyl 5-ethynyl-2-hydroxybenzoate (9.5 g, 50 mmol), triethylamine (65 ml) and tetrahydrofuran (65 ml) were stirred at 60 ° C. Dichlorobis(triphenylphosphine)palladium (250 mg, 0.36 mmol) and copper(I)iodide (140 mg, 0.7 mmol) were added with stirring. After 1 h the solution was poured into dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water, dried, treated with activated carbon and the solvent evaporated. The residue was recrystallized from methanol, then from toluene and finally from acetic acid. Yield 12.7 g 58%.

reactant | 3-Iodo-N-(3-methyl-2-pyridinyl)benzenesulfonamide | 50 mmol, 18.7 g | IC=1C=C(C=CC1)S(=O)(=O)NC1=NC=CC=C1C | C12H11IN2O2S
reactant | ethyl 5-ethynyl-2-hydroxybenzoate | 50 mmol, 9.5 g | C(#C)C=1C=CC(=C(C(=O)OCC)C1)O | C11H10O3
reactant | triethylamine | 65 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.36 mmol, 250 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)iodide | 0.7 mmol, 140 mg | [Cu]I
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | Ethyl 2-hydroxy4-[[3-[(3-methyl-2-pyridinylamino)sulfonyl]-phenyl]ethynyl]benzoate | OC1=C(C(=O)OCC)C=CC(=C1)C#CC1=CC(=CC=C1)S(=O)(=O)NC1=NC=CC=C1C | C23H20N2O5S
